US06967201B1
5-(tert-butyldimethylsilyloxymethyl)-7-bromobenzofuran
A mixture of 0.40 gm (1.76 mMol) 5-(hydroxymethyl)-7-bromobenzofuran, 0.24 gm (30.5 mMol) imidazole, and 0.26 gm (1.76 mMol) tert-butyldimethylsilyl chloride in 2 ml dimethylformamide was stirred at room temperature over night. The reaction mixture was then partitioned between hexane and water. The organic phase was washed with well with water, dried over magnesium sulfate and concentrated under reduced pressure to provide 0.51 gm (85%) of the desired compound.

reactant | 5-(hydroxymethyl)-7-bromobenzofuran | 1.76 mMol, 0.40 gm | OCC=1C=C(C2=C(C=CO2)C1)Br | C9H7BrO2
reactant | imidazole | 30.5 mMol, 0.24 gm | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 1.76 mMol, 0.26 gm | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-(tert-butyldimethylsilyloxymethyl)-7-bromobenzofuran | 0.51 gm, 85% | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C2=C(C=CO2)C1)Br | C15H21BrO2Si
